US08754079B2
X.1. [trans-4-(2-Nitro-5-fluoro-phenoxy)-cyclohexyl]-methyl-carbamic acid methyl ester
129 μl methyl chloroformate were added to an ice-cooled mixture of 0.305 g [trans-4-(5-fluoro-2-nitro-phenoxy)-cyclohexyl]-methyl-amine hydrochloride and 417 μl triethylamine in 5 ml methylene chloride. After 10 minutes the coolant was removed and the mixture was stirred at rt overnight. Then the reaction mixture was diluted with methylene chloride and washed with 10% aq. potassium hydrogen sulfate solution and 10% aq.potassium carbonate solution. The organic phase was passed through a hydrophobic frit.

reactant | methyl chloroformate | 129 μl | ClC(=O)OC | C2H3ClO2
reactant | [trans-4-(5-fluoro-2-nitro-phenoxy)-cyclohexyl]-methyl-amine hydrochloride | 0.305 g | Cl.FC=1C=CC(=C(O[C@@H]2CC[C@H](CC2)NC)C1)[N+](=O)[O-]
reactant | triethylamine | 417 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | [trans-4-(2-Nitro-5-fluoro-phenoxy)-cyclohexyl]-methyl-carbamic acid methyl ester | COC(N(C)[C@@H]1CC[C@H](CC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-])=O | C15H19FN2O5
